US06849624B2
f) Methyl-(6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine
To a solution of 2.46 g (8.6 mmol) 6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-ylamine in 38 ml tetrahydrofuran were added 2.38 g (17 mmol) potassium carbonate (dissolved in 25 ml water) and 1.03 g (9.5 mmol) ethyl cloroformate. The reaction mixture was stirred for 1 h at room temperature and evaporated to remove tetrahydrofuran. The aqueous layer was extracted twice with 50-ml portions of dichloromethane and the organic layer was dried (sodium sulfate) and evaporated in vacuo. The residual oil was dissolved in 30 ml tetrahydrofuran and 7.4 ml (2.6 mmol) 3.5 M sodium bis(2-methoxyethoxy)aluminum hydride solution in toluene were added within 30 min. The reaction mixture was stirred at 50° C. overnight. After cooling to 0° C., 7.5 ml 1 N sodium hydroxide solution were added dropwise. Tetrahydrofuran was removed in vacuo and 10 ml of water were added. The aqueous layer was extracted twice with 20-ml portions of dichloromethane and the combined organic layers were dried (sodium sulfate), evaporated and purified by flash chromatography to give 2.37 g (92%) of the title compound as a yellow solid.

reactant | 6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-ylamine | 8.6 mmol, 2.46 g | N1(CCSCC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C16H19N3S
reactant | potassium carbonate | 17 mmol, 25 ml, 2.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl cloroformate | 9.5 mmol, 1.03 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 2.6 mmol, 3.5 M, 7.4 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium hydroxide | 1 N, 7.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl-(6-thiomorpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine | 2.37 g, 92% | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCSCC1 | C17H21N3S
